US08008298B2
[2-(4-Dimethylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 4-(dimethylamino)phenylboronic acid following general procedures as described in these Examples. MP 272-274° C., M+H=363.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 4-(dimethylamino)phenylboronic acid | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
product | [2-(4-Dimethylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | CN(C1=CC=C(C=C1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C)C | C22H26N4O
